### ISSUE TITLE
Tactic forgets typeclass instance

### ISSUE THREAD

**Issue by kmill** [leanprover/lean4#270]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

In a tactic proof with a `have`, after a rewrite it seems typeclass resolution is no longer able to locate an instance in the context.

### Steps to Reproduce

```lean
class CommAddSemigroup (α : Type u) extends Add α where
    addComm : {a b : α} → a + b = b + a
    addAssoc : {a b c : α} → a + b + c = a + (b + c)

open CommAddSemigroup

theorem addComm3 [CommAddSemigroup α] {a b c : α} : a + b + c = a + c + b := by {
    have h : b + c = c + b := addComm;
    have h' := congrArg (a + .) h;
    simp at h';
    rw ←addAssoc at h';
    rw ←addAssoc (a := a) at h';
    exact h';
}

theorem addComm3' [CommAddSemigroup α] {a b c : α} : a + b + c = a + c + b := by {
    rw [addAssoc, addAssoc];
    rw [addComm (a := b)];
}

theorem addComm3'' [CommAddSemigroup α] {a b c : α} : a + b + c = a + c + b := by {
    have h : b + c = c + b := addComm;
    have h' := congrArg (a + .) h;
    simp at h';
    rw ←addAssoc at h';
    rw ←@addAssoc (a := a) at h';
    exact h';
}
```

**Expected behavior:** `addComm3` accepts the second `addAssoc` rewrite.

**Actual behavior:** The application `addAssoc (a := a)` fails to synthesize an instance:
```
typeclass_failure.lean:12:8: error: failed to synthesize instance
  CommAddSemigroup α
```

Note: putting `@` before `addAssoc` (as in `addComm3''`) makes it work.

### Versions

Lean (version 4.0.0-m1, commit 34cf4bc3ffc3, Release)

Lean (version 4.0.0-nightly-2021-01-16, commit 58d51bc764b4, Release)

Lean (version 4.0.0, commit dcc2283426fa, Release)
